US04886814
(b) 2-(2-Trifluoromethyl-thiazol-4-yl)ethylene oxide
5 g (0.018 mol) of 1-(2-Trifluoromethyl-thiazol-4-yl)-1-hydroxy-2-bromoethane are suspended in 4 ml of 50% strength sodium hydroxide solution and stirred for 5 minutes. The mixture is then diluted with ice-water and extracted by shaking with methylene chloride. The organic phase is dried over sodium sulphate and concentrated in vacuo at 20° C., and the resulting oil is purified on a silica gel column using methylene chloride as eluant.

reactant | 1-(2-Trifluoromethyl-thiazol-4-yl)-1-hydroxy-2-bromoethane | 0.018 mol, 5 g | FC(C=1SC=C(N1)C(CBr)O)(F)F | C6H5BrF3NOS
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-(2-Trifluoromethyl-thiazol-4-yl)ethylene oxide | FC(C=1SC=C(N1)C1CO1)(F)F | C6H4F3NOS
